US09078442B2
Ethyl 3-(3-bromo-5-fluorophenyl)-5-methyl-4,5-dihydro-1,2-oxazole-5-carboxylate (1000 mg, 3.03 mmol), potassium carbonate (1.67 g, 12.12 mmol) and tetrakis(triphenylphosphane)palladium (350 mg, 0.30 mmol) were suspended in DMF (10 ml). Triethylborane (1M in hexane, 4.24 ml, 4.24 mmol) was then added, and the reaction mixture was heated in a microwave oven at 150° C. for 30 min. After cooling, water (20 ml), sulfuric acid (1 M, 5 ml) and CH2Cl2 (20 ml) were added, and the mixture was shaken. The organic phase was then dried over Na2SO4, and the solvent was removed under reduced pressure. Chromatography of the residue on silica gel using the mobile phase heptane/EtOAc gave 701 mg (83%) of ethyl 3-(3-ethyl-5-fluorophenyl)-5-methyl-4,5-dihydro-1,2-oxazole-5-carboxylate.

reactant | Ethyl 3-(3-bromo-5-fluorophenyl)-5-methyl-4,5-dihydro-1,2-oxazole-5-carboxylate | 3.03 mmol, 1000 mg | BrC=1C=C(C=C(C1)F)C1=NOC(C1)(C(=O)OCC)C | C13H13BrFNO3
reactant | potassium carbonate | 12.12 mmol, 1.67 g | C([O-])([O-])=O.[K+].[K+]
reactant | Triethylborane | 4.24 mmol, 1M, 4.24 ml | C(C)B(CC)CC | C6H15B
reactant | sulfuric acid | 1 M, 5 ml | S(O)(O)(=O)=O | H2O4S
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
solvent | CH2Cl2 | 20 ml | C(Cl)Cl | CH2Cl2
solvent | water | 20 ml | O | H2O
product | ethyl 3-(3-ethyl-5-fluorophenyl)-5-methyl-4,5-dihydro-1,2-oxazole-5-carboxylate | 701 mg, 83% | C(C)C=1C=C(C=C(C1)F)C1=NOC(C1)(C(=O)OCC)C | C15H18FNO3
